### PR TITLE
feat: irevert tactic

### LINKED ISSUE #69: iRevert tactic
Port the `iRevert` tactic

### PR DESCRIPTION
**Pull request by oliversoeser**
Implements the `irevert` tactic, closes #69.

### CODE REVIEW

File: src/Iris/ProofMode/Tactics/Revert.lean [hunk 1]
```diff
@@ -0,0 +1,70 @@
...
+theorem wand_revert [BI PROP] {P Q A1 A2 : PROP}
+    (h1 : P ⊣⊢ A1 ∗ A2) (h2 : A1 ⊢ A2 -∗ Q) : P ⊢ Q :=
+  h1.mp.trans (wand_elim h2)
+
+theorem forall_revert [BI PROP] {P : PROP} {Ψ : α → PROP}
+    (h : P ⊢ ∀ x, Ψ x) : ∀ x, P ⊢ Ψ x :=
+  λ x => h.trans (forall_elim x)
+
+theorem pure_revert [BI PROP] {P Q : PROP} {φ : Prop}
+    (h : P ⊢ ⌜φ⌝ -∗ Q) : φ → P ⊢ Q :=
```
Comment (MackieLoeffel) [inline src/Iris/ProofMode/Tactics/Revert.lean:20]: This should use the `MakeAffinely ⌜ φ ⌝ P` to add the `<affine>` modality in front of ` ⌜ φ ⌝` for logics that require it. Otherwise, `irevert` can make the goal unprovable. See 
https://gitlab.mpi-sws.org/iris/iris/-/blob/306d8d024f9d6522c0e733fd7eb27b0af676d4ca/iris/proofmode/coq_tactics.v

File: src/Iris/ProofMode/Tactics/Revert.lean [hunk 2]
```diff
@@ -0,0 +1,70 @@
...
+      let m : Q($e' ⊢ $out -∗ $goal) ← mkFreshExprSyntheticOpaqueMVar <|
+        IrisGoal.toExpr { hyps := hyps', goal := q(wand $out $goal), .. }
+
+      let pf : Q($e ⊢ $goal) := q(wand_revert $h $m)
+
+      mvar.assign pf
+      replaceMainGoal [m.mvarId!]
+    else
+      let f ← getFVarId hyp
+      let (some ldecl) := ((← getLCtx).find? f) | throwError "unknown identifier"
```
Comment (MackieLoeffel) [inline src/Iris/ProofMode/Tactics/Revert.lean:39]: I think it would be good if this gives a more descriptive error that at least mentions the identifier `f`. The Rocq version [uses](https://gitlab.mpi-sws.org/iris/iris/-/blob/master/iris/proofmode/ltac_tactics.v?ref_type=heads#L620) `"iRevert:" x "not in scope"`.

File: src/Iris/Tests/Tactics.lean [hunk 3]
```diff
@@ -115,6 +115,43 @@ theorem multiple_patterns [BI PROP] (Q : PROP) : ⊢ □ (P1 ∧ P2) -∗ Q ∨
...
+  iintro □HP
+  irevert HP
+  exact H
+
+theorem pure [BI PROP] (P : PROP) (Hφ : φ) : ⊢ (⌜φ⌝ -∗ P) -∗ P := by
+  iintro H
+  irevert Hφ
+  iexact H
+
+theorem «forall» [BI PROP] (Φ : α → PROP) : ⊢ (∀ x, Φ x) → Φ x := by
```
Comment (MackieLoeffel) [inline src/Iris/Tests/Tactics.lean:136]: I was quite confused by this test since I did not see where `x` comes from. I think it would be good to add it as an explicit parameter to the theorem and not have it implicitly quantified.

File: src/Iris/Tests/Tactics.lean [hunk 4]
```diff
@@ -115,6 +115,43 @@ theorem multiple_patterns [BI PROP] (Q : PROP) : ⊢ □ (P1 ∧ P2) -∗ Q ∨
 
 end intro
 
+-- revert
+namespace revert
```
Comment (MackieLoeffel) [inline src/Iris/Tests/Tactics.lean:119]: It would also be good to have tests for the failing cases:
1. What happens when the name is not used?
2. What happens when a pure hypothesis is used in another hypothesis?

For the second point: When I try the following test,
```lean
theorem fail [BI PROP] (Φ : Bool → PROP) : ⊢ ∀ x, <affine> ⌜x = true⌝ -∗ Φ x -∗ Φ x := by
  iintro x %_ H
  irevert x
```
something very weird happens:
```lean
Goals (1)
PROP : Type u_1
inst : BI PROP
Φ : Bool → PROP
⊢ 
  ∗H : Φ _fvar.2200
  ⊢ «forall» fun x x_1 => Φ x
```

File: tactics.md [hunk 5]
```diff
@@ -1,28 +1,29 @@
...
-| `ipure_intro`                          | Turn a goal of the form `⌜φ⌝` into a Lean goal `φ`.                                                                                                                                                                                  |
-| `ispecialize` *hyp* *args* `as` *name* | Specialize the wand or universal quantifier *hyp* with the hypotheses and variables *args* and assign the name *name* to the resulting hypothesis.                                                                                   |
-| `isplit`                               | Split a conjunction (e.g. `∧`) into two goals, using the entire spatial context for both of them.                                                                                                                                    |
-| `isplit` {`l`\|`r`}                    | Split a separating conjunction (e.g. `∗`) into two goals, using the entire spatial context for the left (`l`) or right (`r`) side.                                                                                                   |
```
Comment (MackieLoeffel) [inline tactics.md:21]: Something weird is happening with all the whitespace here.

**Review by MackieLoeffel — COMMENTED** [review]
I looked over the MR and noticed some minor points.
